US04833164
Methyl 7-(1-hydroxy-2-naphthyl)-5-heptynoate
A solution of ethanethiol (12.0 mL, 0.162 mole) and boron trifluoride etherate (6.0 mL, 0.049 mole) was stirred at room temperature. A solution of methyl 7-(1-benzyloxy-2-naphthyl)-5-heptynoate (2.05 g, 0.006 mole) in methylene chloride (8 mL) was added, and the mixture was stirred for 1.5 hours, then poured into water. The crude product was isolated by extraction with ether, and chromatographed with 2:1 ether/hexane. The title compound (1.09 g, 71%) was obtained as a colorless oil. Mass spectrum: m/z=282.

reactant | ethanethiol | 0.162 mole, 12.0 mL | C(C)S | C2H6S
reactant | boron trifluoride etherate | 0.049 mole, 6.0 mL | B(F)(F)F.CCOCC
reactant | methyl 7-(1-benzyloxy-2-naphthyl)-5-heptynoate | 0.006 mole, 2.05 g | C(C1=CC=CC=C1)OC1=C(C=CC2=CC=CC=C12)CC#CCCCC(=O)OC | C25H24O3
reactant | water | O | H2O
solvent | methylene chloride | 8 mL | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | Methyl 7-(1-hydroxy-2-naphthyl)-5-heptynoate | 1.09 g, 71% | OC1=C(C=CC2=CC=CC=C12)CC#CCCCC(=O)OC | C18H18O3
